### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Solvable.lean [hunk 1]
```diff
@@ -226,8 +226,8 @@ private theorem coe_derivedSeries_eq_int_aux (R₁ R₂ L : Type*) [CommRing R
 
 theorem coe_derivedSeries_eq_int (k : ℕ) :
     (derivedSeries R L k : Set L) = (derivedSeries ℤ L k : Set L) := by
-  show ((derivedSeries R L k).toSubmodule : Set L) = ((derivedSeries ℤ L k).toSubmodule : Set L)
-  rw [derivedSeries_def, derivedSeries_def]
+  rw [← LieSubmodule.coe_toSubmodule, ← LieSubmodule.coe_toSubmodule, derivedSeries_def,
```
Comment (grunweg) [inline Mathlib/Algebra/Lie/Solvable.lean:229]: You could also do `simp only [LemmaA, LemmaB]`: up to you.

File: Mathlib/Probability/Moments/IntegrableExpMul.lean [hunk 2]
```diff
@@ -137,7 +137,7 @@ lemma aemeasurable_of_integrable_exp_mul (huv : u ≠ v)
     (hv_int : Integrable (fun ω ↦ exp (v * X ω)) μ) :
     AEMeasurable X μ := by
   by_cases hu : u = 0
-  · have hv : v ≠ 0 := fun h_eq ↦ huv (h_eq ▸ hu)
+  · have hv : v ≠ 0 := ne_of_ne_of_eq huv.symm hu
```
Comment (grunweg) [inline Mathlib/Probability/Moments/IntegrableExpMul.lean:140]: I'm neutral about this change. Let's see what a maintainer thinks.

File: Mathlib/MeasureTheory/Function/L2Space.lean [hunk 3]
```diff
@@ -180,21 +180,13 @@ private theorem add_left' (f f' g : α →₂[μ] E) : ⟪f + f', g⟫ = inner f
   simp_rw [inner_def, ← integral_add (integrable_inner (𝕜 := 𝕜) f g) (integrable_inner f' g),
     ← inner_add_left]
   refine integral_congr_ae ((coeFn_add f f').mono fun x hx => ?_)
-  -- Porting note: was
-  -- congr
-  -- rwa [Pi.add_apply] at hx
-  simp only
-  congr
+  simp only [hx, Pi.add_apply]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/L2Space.lean:183]: Does the old proof also work? If so, this change seems fine to me.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by Ruben-VandeVelde** [comment]
bors merge
